US06391991B1
(a) Synthesis of 4,7-dimethyl-indan-1-one
180 mL CH2Cl2 and 36 g anhydrous AlCl3 (Carlo Erba) were charged in a 3-neck 0.5-L round bottomed flask equipped with magnetic stirring bar, 250-ml dropping funnel, thermometer and reflux condenser. A solution containing 31 ml p-xylene and 21 ml acryloylchloride (Aldrich) in 100 ml CH2Cl2 was placed in the dropping funnel. This solution was added dropwise over 4 hours to the flask, the content of which was kept under stirring at the temperature of 0° C. with a bath of water and ice. Evolution of HCl was observed and the reaction mixture turned dark brick-red. After addition was complete, the mixture was allowed to warm to room temperature and stirring was continued overnight (18 hours). The reaction mixture was poured in a flask containing 250 g ice and 250 ml HCl 37%, the organic phase was separated and the acqueous phase was extracted with Et2O (3 times). All organic fractions were combined and washed with saturated aqueous NaHCO3 and water, dried with Na2SO4, filtered and the solvent was removed in vacuo. 38.25 g of light yellow-orange oil were obtained. This product was used without any further purification.

reactant | AlCl3 | 36 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | p-xylene | 31 ml | CC=1C=CC(=CC1)C | C8H10
reactant | acryloylchloride | 21 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | HCl | Cl | ClH
reactant | HCl | 250 ml | Cl | ClH
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 180 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4,7-dimethyl-indan-1-one | CC1=C2CCC(C2=C(C=C1)C)=O | C11H12O
